US04251537
6-Acetyl-3,4-dihydro-2,2-dimethyl-trans-4-piperidino-2H-benzo[b]pyran-3-ol (1.00 g) was dissolved in methanol (10 ml) and water (2 ml) and treated with sodium borohydride (0.10 g) with stirring at room temperature during 5 minutes. After an additional 2 hours stirring, the reaction mixture was diluted with water (100 ml). Extraction using diethyl ether gave 1-hydroxy-1-[trans-2,2-dimethyl-3-hydroxy-4-piperidinochroman-6-yl]-ethane (1.00 g) which was dissolved in dry ether and treated with ethereal hydrogen chloride giving the hydrochloride salt (0.90 g) m.p. 179°-181° C. as a white powder from ethanol-ether.

reactant | 6-Acetyl-3,4-dihydro-2,2-dimethyl-trans-4-piperidino-2H-benzo[b]pyran-3-ol | 1.00 g | C(C)(=O)C1=CC2=C(OC([C@H]([C@@H]2N2CCCCC2)O)(C)C)C=C1 | C18H25NO3
reactant | sodium borohydride | 0.10 g | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | 1-hydroxy-1-[trans-2,2-dimethyl-3-hydroxy-4-piperidinochroman-6-yl]-ethane | 1.00 g | OC(C)C=1C=C2[C@H]([C@@H](C(OC2=CC1)(C)C)O)N1CCCCC1 | C18H27NO3
